US05273999
Preparation of [2-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]phenoxy]acetic Acid
Using the procedure of example 4, [2-[5-[3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]phenoxy]acetic acid was prepared in 72.3% overall yield starting from 0.31 g (1.5 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one and 0.53 g (1.6 mmol) of [2-[(5-bromopentyl)oxy]phenoxy]acetic acid methyl ester, as a colorless solid, mp 98°-99° C., recrystallized from hexane-ethyl acetate.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 1.5 mmol, 0.31 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | [2-[(5-bromopentyl)oxy]phenoxy]acetic acid methyl ester | 1.6 mmol, 0.53 g | COC(COC1=C(C=CC=C1)OCCCCCBr)=O | C14H19BrO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [2-[5-[(3,4-Dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]phenoxy]acetic Acid | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC2=C(OCC(=O)O)C=CC=C2 | C25H30O7
